US07456283B2
Preparation of N-(3-amino-4-methyl-phenyl)-4-(4-methyl-piperazin-1-ylmethyl)-benzamide
A solution of AlCl3 (1000 mg, 7.5 mmol) in toluene (3 ml) and acetonitrile (3.0 ml) at 0° C. under an atmosphere of argon is treated dropwise with a solution of 3-amino-4-methyl-aniline (470 mg, 6.0 mmol) in toluene (6 ml). The resulting brown solution is heated at 40° C. A solution of 4-(4-methyl-piperazin-1-ylmethyl)-benzoic acid methyl ester (745 mg, 3.0 mmol) in toluene (2 ml) is then added dropwise over a period of 30 min. The resulting mixture is stirred at 40° C. for 8 hrs and then cooled at 0° C. An aqueous saturated potassium-sodium tartrate (30 ml) and aqueous saturated NaHCO3 (40 ml) and t-butyl methyl ether (60 ml) are added sequentially. The organic phase is separated and washed with aqueous saturated NaCl. The aqueous phases are back-extracted with t-butyl methyl ether. The organic phases are combined, dried over MgSO4 and concentrated in vacuo. Purification by flash-chromatography (SiO2, CH2Cl2/MeOH 90:10+1% aq. NH3) gives 825 mg of the title compound (75%) as yellowish crystals.

reactant | AlCl3 | 7.5 mmol, 1000 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 3-amino-4-methyl-aniline | 6.0 mmol, 470 mg | NC=1C=C(N)C=CC1C | C7H10N2
reactant | 4-(4-methyl-piperazin-1-ylmethyl)-benzoic acid methyl ester | 3.0 mmol, 745 mg | COC(C1=CC=C(C=C1)CN1CCN(CC1)C)=O | C14H20N2O2
reactant | potassium-sodium tartrate | 30 ml | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
reactant | NaHCO3 | 40 ml | C(=O)(O)[O-].[Na+]
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetonitrile | 3.0 ml | C(C)#N | C2H3N
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | t-butyl methyl ether | 60 ml | COC(C)(C)C | C5H12O
product | N-(3-amino-4-methyl-phenyl)-4-(4-methyl-piperazin-1-ylmethyl)-benzamide | 825 mg, 75% | NC=1C=C(C=CC1C)NC(C1=CC=C(C=C1)CN1CCN(CC1)C)=O | C20H26N4O
